US05574055
(RS)-5-Methoxymethyl-3-[4-(4-dimethylmethylene-cyclohexyl)-phenyl]-oxazolidin-2-one
1.60 g (3.3 mmol) of isopropyl-triphenylphosphonium bromide/sodium amide mixture in 30 ml of tetrahydrofuran were stirred at room temperature for 1 hour. Then, a solution of 1.0 g (3.3 mmol) of (RS)-3-[4-(4-oxo-cyclohexyl)-phenyl]-5-methoxymethyl-oxazolidin-2-one in 25 ml of tetrahydrofuran was added dropwise. After boiling at reflux over the weekend the mixture was poured into 100 ml of water and extracted three times with 50 ml of dichloromethane each time. After chromatography over silica gel with ethyl acetate/hexane 1:2 and recrystallization from n-hexane 120 mg (11%) were obtained as white crystals with m.p. 89°-91°.

reactant | isopropyl-triphenylphosphonium bromide sodium amide | 3.3 mmol, 1.60 g | [Br-].C(C)(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[NH2-].[Na+]
reactant | (RS)-3-[4-(4-oxo-cyclohexyl)-phenyl]-5-methoxymethyl-oxazolidin-2-one | 3.3 mmol, 1.0 g | O=C1CCC(CC1)C1=CC=C(C=C1)N1C(OC(C1)COC)=O | C17H21NO4
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | (RS)-5-Methoxymethyl-3-[4-(4-dimethylmethylene-cyclohexyl)-phenyl]-oxazolidin-2-one | COCC1CN(C(O1)=O)C1=CC=C(C=C1)C1CCC(CC1)=C(C)C | C20H27NO3
